US08039455B2
b) (S)-4-{(R)-2-[1-(4-tert-Butyl-pyridin-2-yl)-cyclopropylamino]-1-hydroxy-ethyl}-19-methyl-11,16-dioxa-3,18-diaza-tricyclo[15.3.1.1*6,10*]docosa-1(21),6,8,10(22),17,19-hexaen-2-one
A solution of 60 mg (0.0868 mmol) 2-[4-(3-{(2S,3R)-2-tert-butoxycarbonylamino-4-[1-(4-tert-butyl-pyridin-2-yl)-cyclopropylamino]-3-hydroxy-butyl}-phenoxy)-butoxy]-6-methyl-isonicotinic acid methyl ester is treated with 0.17 ml 1N aq sodium hydroxide and stirred for 18 h. The mixture is acidified with 0.17 ml 1N aq hydrochloric acid and evaporated. The residue is taken up into 3 ml 4N hydrochloric acid in dioxan, stirred for 2 h and evaporated. The product is taken up in 20 ml DCM. To the stirred mixture at +4° C. is added subsequently 22.3 mg (0.13 mmol) HOBt, 25 mg (1.5 mmol) EDC and 0.048 ml N-methylmorpholine. The mixture is slowly warmed to rt and stirred 18 h. Water is added and the organic phase is washed with 5% aq sodium bicarbonate and brine, dried over sodium sulfate and chromatographed on silica gel using a gradient of DCM and MeOH/25% aq NH3 2-10%. The title compound is obtained as a colorless resin.

reactant | 2-[4-(3-{(2S,3R)-2-tert-butoxycarbonylamino-4-[1-(4-tert-butyl-pyridin-2-yl)-cyclopropylamino]-3-hydroxy-butyl}-phenoxy)-butoxy]-6-methyl-isonicotinic acid methyl ester | 0.0868 mmol, 60 mg | COC(C1=CC(=NC(=C1)C)OCCCCOC1=CC(=CC=C1)C[C@@H]([C@@H](CNC1(CC1)C1=NC=CC(=C1)C(C)(C)C)O)NC(=O)OC(C)(C)C)=O | C39H54N4O7
reactant | sodium hydroxide | 1N, 0.17 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.17 ml | Cl | ClH
reactant | HOBt | 0.13 mmol, 22.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.5 mmol, 25 mg
reactant | N-methylmorpholine | 0.048 ml | CN1CCOCC1 | C5H11NO
solvent | Water | O | H2O
product | (S)-4-{(R)-2-[1-(4-tert-Butyl-pyridin-2-yl)-cyclopropylamino]-1-hydroxy-ethyl}-19-methyl-11,16-dioxa-3,18-diaza-tricyclo[15.3.1.1*6,10*]docosa-1(21),6,8,10(22),17,19-hexaen-2-one | C(C)(C)(C)C1=CC(=NC=C1)C1(CC1)NC[C@@H](O)[C@H]1NC(C=2C=C(N=C(OCCCCOC=3C=CC=C(C1)C3)C2)C)=O | C33H42N4O4
